US07402595B2
6-chloro-4-phenylisocoumarin-3-carboxylic acid methyl ester
To a solution of 6-chloro-4-phenylisocoumarin-3-carboxylic acid (9 g) in methanol (200 ml) was added sulfuric acid (20 ml) and the mixture was refluxed for 2 hrs. The reaction mixture was concentrated, and the residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was crystallized from isopropyl ether to give the title compound (8.7 g) as colorless crystals.

reactant | 6-chloro-4-phenylisocoumarin-3-carboxylic acid | 9 g | ClC=1C=C2C(=C(OC(=O)C2=CC1)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | 6-chloro-4-phenylisocoumarin-3-carboxylic acid methyl ester | 8.7 g | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C17H11ClO4
